US08686022B2
1-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperidine-4-carboxylic acid
1.3 g tert-butyl 1-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperidine-4-carboxylate are dissolved in 20 ml dichloromethane, combined with 1.04 ml of a 4 M solution of hydrogen chloride in 1,4-dioxane and stirred for 12 hours. A further 2 ml of a 4 M solution of hydrogen chloride in 1,4-dioxane is added and the mixture is stirred for a further 24 hours. The solvents are eliminated in vacuo and the residue is taken up twice in dichloromethane and this is then eliminated in vacuo. The product thus obtained is further reacted directly.

reactant | tert-butyl 1-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperidine-4-carboxylate | 1.3 g | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCC(CC1)C(=O)OC(C)(C)C)C)OC)NS(=O)(=O)C | C33H46N4O6S
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 1-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperidine-4-carboxylic acid | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCC(CC1)C(=O)O)C)OC)NS(=O)(=O)C | C29H38N4O6S
